US08791146B2
2-Chloro-4-(4-hydroxyphenyl)-6-methoxypyridine-3,5-dicarbonitrile
7.98 g (15.285 mmol) of 2-amino-4-(4-hydroxyphenyl)-6-methoxypyridine-3,5-dicarbonitrile are initially charged in 120 ml of acetonitrile, 6.175 ml (45.855 mmol) of isoamyl nitrite and 6.165 g (45.855 mmol) of copper(II) chloride are added and the mixture is stirred at room temperature overnight. 1N hydrochloric acid is added, and the reaction mixture is extracted with ethyl acetate. The organic phase is washed with saturated aqueous sodium bicarbonate solution and with water, dried over sodium sulphate and concentrated. The residue is purified on a silica gel column (mobile phase: toluene/ethyl acetate 2:1). This gives 1.3 g (23% of theory) of the target compound.

reactant | 2-amino-4-(4-hydroxyphenyl)-6-methoxypyridine-3,5-dicarbonitrile | 15.285 mmol, 7.98 g | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)O)C#N)OC | C14H10N4O2
reactant | isoamyl nitrite | 45.855 mmol, 6.175 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
catalyst | copper(II) chloride | 45.855 mmol, 6.165 g | [Cu](Cl)Cl
product | 2-Chloro-4-(4-hydroxyphenyl)-6-methoxypyridine-3,5-dicarbonitrile | ClC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)O)C#N)OC | C14H8ClN3O2
